US07132544B2
1,3-Dihydro-1-(3-phenylpropyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-2H-imidazol-2-one
N-(3-phenylpropyl)-N′-[(2,2-dimethoxy-2-(4-pyridyl)-1-(4-fluorophenyl)ethyl)] urea (224 g, 0.45 mol) was mixed with 4N HCl (800 g) and heated under reflux for 4–5 h (95–100° C.). Upon completion, the reaction was cooled to room temperature and adjusted to pH 13 with 8N NaOH solution (480 g), resulting in precipitation of a solid product. The pH of the suspension was controlled to pH≧13 for 30 min, with addition of sodium hydroxide as needed. The suspension was centrifuged and the aqueous phase removed and discarded. The solid was resuspended in 2N NaOH solution (1000 g), centrifuged a second time and then re-suspended in water (2×1000 g, water phase pH 7). The solid product was dried at 45–50° C., under vacuum (for about 4–5 days), to a final water content of <2%, to yield the product as a tan solid.

reactant | N-(3-phenylpropyl)-N′-[(2,2-dimethoxy-2-(4-pyridyl)-1-(4-fluorophenyl)ethyl)] urea | 0.45 mol, 224 g | C1(=CC=CC=C1)CCCNC(=O)NC(C(C1=CC=NC=C1)(OC)OC)C1=CC=C(C=C1)F | C25H28FN3O3
reactant | HCl | 4N, 800 g | Cl | ClH
reactant | NaOH | 8N, 480 g | [OH-].[Na+]
product | 1,3-Dihydro-1-(3-phenylpropyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-2H-imidazol-2-one | C1(=CC=CC=C1)CCCN1C(NC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F)=O | C23H20FN3O
